US09422292B2
Sodium metal (2.4 g, 104 mmol) was added in portions to methanol (50 mL) and the mixture was stirred at room temperature until sodium metal was dissolved completely. The solution was then added dropwise to a cooled solution of methyl 3-(2-amino-5-bromophenylamino)-2-methylpropanoate (6 g, 20.9 mmol) in methanol (100 mL) at 0° C. After addition, the mixture was stirred at room temperature for 12 hours. The mixture was concentrated in vacuo. To the residue was added water (50 mL). The mixture was extracted with ethyl acetate (100 mL×3). The organic layers were combined, dried over anhydrous sodium sulfate and then filtered. The filtrate was concentrated to give a crude product, which was purified by column chromatography (silica-gel, petroleum ether/ethyl acetate=3:1) to afford 7-bromo-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one (1.8 g, 34%).

reactant | Sodium | 104 mmol, 2.4 g | [Na] | Na
reactant | methyl 3-(2-amino-5-bromophenylamino)-2-methylpropanoate | 20.9 mmol, 6 g | NC1=C(C=C(C=C1)Br)NCC(C(=O)OC)C | C11H15BrN2O2
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 50 mL | CO | CH4O
product | 7-bromo-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 1.8 g, 34% | BrC1=CC2=C(NC(C(CN2)C)=O)C=C1 | C10H11BrN2O
